US08293768B2
Synthesis of N-benzyl-4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid to react with benzylamine, the title compound was obtained as a white powder in 44% yield: mp 127-128° C.; 1H NMR (300 MHz, CDCl3) δ 7.60 (d, J=8.1 Hz, 2H), 7.41-7.26 (m, 7H), 5.90 (t, J=5.7 Hz, 1H), 4.55 (d, J=5.7 Hz, 2H), 4.51 (s, 2H), 4.09 (t, J=8.1 Hz, 2H), 3.46 (t, J=8.1 Hz, 2H), 2.60 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.2, 157.2, 155.4, 152.8, 139.6, 137.9, 130.2, 128.8, 128.5, 127.8, 127.6, 125.8, 122.1, 117.5, 47.6, 44.0, 42.1, 41.9, 17.1; MS (ES+) m/z 475.0 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H14F3N3O3S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide | 44% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C23H21F3N4O2S
